US08420682B2
550 mg (2.02 mmol) of 4-(1-cyanocyclohexylamino)-benzoic acid ethyl ester are dissolved in 20 ml of concentrated sulfuric acid. The reaction medium is stirred at room temperature for 5 hours. The reaction medium is poured gently onto ice, the pH is brought to 12 with sodium hydroxide, and the resulting mixture is extracted with ethyl acetate. The organic phases are combined and washed with water. They are dried over sodium sulfate. The solvents are evaporated off. The product is chromatographed on silica gel (60/40 heptane/ethyl acetate). The product 4-(1-carbamoyl-cyclohexylamino)benzoic acid ethyl ester is obtained in the form of a white solid.

reactant | 4-(1-cyanocyclohexylamino)-benzoic acid ethyl ester | 2.02 mmol, 550 mg | C(C)OC(C1=CC=C(C=C1)NC1(CCCCC1)C#N)=O | C16H20N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 4-(1-carbamoyl-cyclohexylamino)benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC1(CCCCC1)C(N)=O)=O | C16H22N2O3
